* G1_BGR standalone capacitance-PEX qualification
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_wcs
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib mos_ss
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_wcs
.include pex_nominal.spice
.option seed=42001 gmin=1e-15 abstol=1e-14 reltol=1e-5 vntol=1e-7
.global sub!
Vsub sub! 0 0
Vdd vdd 0 3.0
Vr4 r4 0 0
Xbgr vdd 0 r4 vref iptat pbias pcasc vbe dvbe g1_bgr
Vload iptat 0 1
Cload vref 0 1p
.control
set num_threads=1
set numdgt=15
set wr_singlescale
set wr_vecnames
option temp=-40
alter @vdd[pwl] = [ 0 0 0.1 3.0 0.30000000000000004 3.0 ]
tran 0.0002 0.30000000000000004 uic
wrdata wcs_ss_wcs_-40_0.1.dat v(vref) i(vload) i(vdd) v(vbe) v(dvbe) v(pbias) v(pcasc) v(xbgr.c2) v(xbgr.vbe3) v(xbgr.vd1) v(xbgr.vd2)
wrdata wcs_ss_wcs_-40_0.1_terminals.dat v(dvbe) v(iptat) v(pbias) v(pcasc) v(r4) v(vbe) v(vdd) v(vref) v(xbgr.b1b) v(xbgr.c2) v(xbgr.d1) v(xbgr.d2) v(xbgr.d3) v(xbgr.d4) v(xbgr.d5) v(xbgr.det) v(xbgr.kick) v(xbgr.n1) v(xbgr.n_10) v(xbgr.n_11) v(xbgr.n_12) v(xbgr.n_13) v(xbgr.n_14) v(xbgr.n_15) v(xbgr.n_16) v(xbgr.n_17) v(xbgr.n_18) v(xbgr.n_19) v(xbgr.n_2) v(xbgr.n_21) v(xbgr.n_22) v(xbgr.n_23) v(xbgr.n_24) v(xbgr.n_25) v(xbgr.n_26) v(xbgr.n_27) v(xbgr.n_3) v(xbgr.n_30) v(xbgr.n_31) v(xbgr.n_33) v(xbgr.n_34) v(xbgr.n_36) v(xbgr.n_37) v(xbgr.n_4) v(xbgr.n_5) v(xbgr.n_6) v(xbgr.n_7) v(xbgr.n_8) v(xbgr.n_9) v(xbgr.r4n) v(xbgr.vb2) v(xbgr.vbe3) v(xbgr.vd1) v(xbgr.vd2)
quit
.endc
.end
